US05830901
To a solution of (E)-1-benzyl-4-[2-(4-fluorophenyl)ethenyl]-1,2,3,6-tetrahydropyridine (11.6 g, 37.5 mmol) in dichloromethane (500 ml) at 0° C. was added 1-chloroethyl chloroformate (4.85 ml, 45 mmol). The reaction was stirred initially at 0° C., and allowing it to warm to room temperature over 2 hours. The solvent was evaporated and methanol (500 ml) added. The mixture was heated at reflux for 1 hour, cooled to room temperature, and the solvent evaporated to a slurry. Diethyl ether was added and the resultant precipitate filtered and dried to yield (E)-4-[2-(4-fluorophenyl)ethenyl]-1,2,3,6-tetrahydropyridine hydrochloride (6.2 g, 69%) as a white solid. δH (DMSO-d6) 2.49-2.53 (2H, m, tetrahydropyridinyl CH2), 3.23 (2H, t, J 6.1 Hz, tetrahydropyridinyl CH2), 3.69 (2H, br s, tetrahydropyridinyl CH2), 5.90 (1H, br s, tetrahydropyridinyl 5-CH), 6.61 (1H, d, J 16.3 Hz, ArCHCHC), 6.92 (1H, d, J 16.3 Hz, ArCHCHC), 7.15-7.20 (2H, m, ArH), 7.55-7.59 (7H, m, ArH) and 9.45 (1H, br s, NH).

reactant | (E)-1-benzyl-4-[2-(4-fluorophenyl)ethenyl]-1,2,3,6-tetrahydropyridine | 37.5 mmol, 11.6 g | C(C1=CC=CC=C1)N1CCC(=CC1)\C=C\C1=CC=C(C=C1)F | C20H20FN
reactant | 1-chloroethyl chloroformate | 45 mmol, 4.85 ml | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | (E)-4-[2-(4-fluorophenyl)ethenyl]-1,2,3,6-tetrahydropyridine hydrochloride | 6.2 g, 69% | Cl.FC1=CC=C(C=C1)/C=C/C=1CCNCC1 | InChI=1S/C13H14FN.ClH/c14-13-5-3-11(4-6-13)1-2-12-7-9-15-10-8-12;/h1-7,15H,8-10H2;1H/b2-1+;
